US05516774
N-[4-(5H-Imidazo[2,1-c][1,4]benzodiazepin-10(11H]-ylcarbonyl]phenyl]-2-methylbenzamide
To a stirred solution of 1 mmol of 2-methylbenzoyl chloride in 10 ml of methylene chloride is added 1.5 mmol of triethylamine. After stirring for 15 minutes, 1 mmol of 10,11-dihydro-10-(4-aminobenzoyl)-5H-imidazo[2,1-c][1,4]benzodiazepine is added and the mixture stirred for 5 hours. The reaction mixture is washed with water, and brine. The reaction mixture is dried with Na2SO4, filtered and evaporated in vacuo to give a solid which is purified by flash chromatography to give the desired product as a solid.

reactant | 2-methylbenzoyl chloride | 1 mmol | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | triethylamine | 1.5 mmol | C(C)N(CC)CC | C6H15N
reactant | 10,11-dihydro-10-(4-aminobenzoyl)-5H-imidazo[2,1-c][1,4]benzodiazepine | 1 mmol | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CN3)C=C1 | C18H16N4O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(5H-Imidazo[2,1-c][1,4]benzodiazepin-10(11H]-ylcarbonyl]phenyl]-2-methylbenzamide | N=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)C)=O | C26H22N4O2
